Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea and epigastric pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o female with history of HTN, recently 
diagnosed CHF (details unclear), CAD s/p R CEA, who originally 
presented to the ___ on ___ with complaints of 
nausea, epigastric pain, fatigue, and constipation for the 4 
days prior to presentation. Her last bowel movement was 5 days 
ago, and she described it as small, hard, and black; patient had 
also recently taken Pepto-Bismol at home, but it is unclear if 
it was before or after the bowel movement. Patient reports that 
her epigastric pain and nausea have improved with Zofran over 
the last 24 hours. On further review of systems, she endorses no 
dyspnea, orthopnea, PND, edema, lighthedeadness, overt bleeding, 
or diarrhea. She does however, report an unintentional 30 lb 
weight loss over the past ___ year which she has discussed with 
her PCP. 

At ___, her LFTs, lipase, CXR, and KUB were normal without 
evidence of obstruction.  She received Zofran with temporary 
relief of her nausea, but she did have a positive troponin of 
0.13. Upon transfer to ___ NP observation unit, her 
repeat troponins were 0.04, 0.04, and 0.03. 

Her diagnosis of CHF is unclear, but OSH records refer to acute 
systolic HF ___ volume overload from IV fluids. Patient was 
recently discharged from ___ s/p recovery from a 
shoulder injury. At some point during hospitalization, she was 
told that her "heart function was 25%" and that she had had an 
MI. Of note, patient does have a complicated social situation in 
which she was recently removed from her home due to hoarding, 
neglect in adult foster home, and recent suicide attempt 1 month 
ago with overdose of ___ Percocet pills.

Patient continues to have persistent nausea, although improved, 
and she is tolerating a clear liquid diet and passing flatus. 

 
Past Medical History:
-Hypertension
-CHF (new diagnosis per pt-unclear details)
-Current smoker
-Breast cancer s/p right mastectomy ___ yrs ago
-Right shoulder injury 5 weeks ago
-Recent PNA
 
Social History:
___
Family History:
No family history of premature CAD. Otherwise non-contributory.
 
Physical Exam:
On admission:
Vital Signs:98.2, 164/87, 83, 20, 97% 2L NC, Wt: 91 lbs
General: No acute distress
Neck supple, JVP not elevated, healed right CEA scar
CV: RRR, split S1, normal S2, ___ systolic murmur. Pain 
reproduced with palpation of the epigastrium.
Lungs: Clear bilaterally
Ext: No edema, WWP
GI: Abdomen soft, Mildly tender epigastrium

On discharge:
VS - Tmax 98.0 Tcurr 98.0 BP 157/80 (119-157/70-80) HR 80 
(65-80) RR 18 SpO2 95% RA (94-98% RA)
General: NAD, lying comfortably in bed
HEENT: Normocephalic, atraumatic, mucous membranes moist
Neck: Supple, full range of motion, no LAD
CV: RRR, normal S1 and S2, no murmurs, rubs, or gallops
Lungs: Clear to auscultation bilaterally, good respiratory 
effort
Abdomen: soft, non-distended, minimal tenderness in epigastric 
region, normoactive bowel sounds
GU: No CVA or suprapubic tenderness bilaterally
Ext: No clubbing, cyanosis, or edema; 2+ DP and radial pulses 
bilaterally
Neuro: CN II-XII grossly intact, non-focal
Skin: No rashes or lesions
 
Pertinent Results:
On admission:
___ 12:20PM BLOOD WBC-8.9 RBC-4.58 Hgb-13.2 Hct-42.3 MCV-92 
MCH-28.9 MCHC-31.3 RDW-16.1* Plt ___
___ 12:20PM BLOOD ___ PTT-37.6* ___
___ 12:20PM BLOOD Glucose-179* UreaN-24* Creat-0.7 Na-135 
K-3.7 Cl-102 HCO3-21* AnGap-16
___ 09:00PM BLOOD ALT-12 AST-18 CK(CPK)-28* AlkPhos-49 
Amylase-39 TotBili-0.9 DirBili-0.3 IndBili-0.6

___ 12:20PM BLOOD cTropnT-0.04*
___ 09:00PM BLOOD CK-MB-4 cTropnT-0.04*
___ 08:10AM BLOOD CK-MB-3 cTropnT-0.03*

On discharge:
___ 07:30AM BLOOD WBC-7.9 RBC-4.52 Hgb-13.0 Hct-40.8 MCV-90 
MCH-28.8 MCHC-31.9 RDW-15.6* Plt ___
___ 07:30AM BLOOD Glucose-85 UreaN-25* Creat-0.8 Na-138 
K-3.5 Cl-99 HCO3-31 AnGap-12
___ 07:30AM BLOOD ALT-16 AST-19 AlkPhos-50 TotBili-1.2
___ 07:30AM BLOOD Calcium-9.7 Phos-2.7 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is an ___ y/o female with history of HTN, recently 
diagnosed CHF (details unclear), CAD s/p R CEA, who originally 
presented with nausea, epigastric pain, and constipation for 5 
days. She was transferred from ___ for further 
management. 

#Nausea and epigastric pain: Patient had been having nausea and 
epigastric pain for a total of 5 days prior to admission. She 
had a history of overdosing on ___ Percocet tablets 1 month 
ago. ACS was ruled out with a stable EKG demonstrating old 
q-waves in the inferior leads, and 3 stable troponins conducted 
in-house (0.03-0.04). Etiology of her nausea and epigastric pain 
was not entirely clear. Considerations included occult 
malignancy (pulmonary nodule noted on X-ray as well as pleural 
thickening), GERD, gastritis, gastroenteritis, or 
peptic/duodenal ulcer. The patient tolerated a regular diet upon 
discharge. She had a minimal requirement for Zofran PRN while 
in-house, but was placed on Pantoprazole 40 mg PO qday in-house 
and sent home on the same dose. She was passing flatus, but had 
not had a bowel movement in 5 days. She was placed on Senna, 
Colace, Miralax, and was also given Milk of Magnesia x 1. She 
had a few loose, watery stools on the morning of discharge. She 
was also continued on her home dose of Dicylomine during this 
admission.

#Black stools: Patient had reported 1 episode of small quantity 
black stool. She also reported taking Pepto Bismol around the 
time of this bowel movement, but it was unclear if she had taken 
the medication before or after the reported "dark" bowel 
movement. There was no gross evidence of melenic stools while 
the patient was in house. She remained hemodynamically stable 
with stable hematocrit throughout admission, but may benefit 
from outpatient EGD in the event of recurrence.

#Weight loss: Ms. ___ reported a 30 lb unintentional weight 
loss for the past year, despite eating significant amount of 
fatty foods including candy, pies, etc. She may benefit from 
investigation for underlying malignancy, including age 
appropriate malignancy screening, in the outpatient setting. It 
is unclear if GI could be the primary source; however, as 
mentioned above, the findings of pulmonary nodule and pleural 
thickening on CXR at OSH, in the setting of a 69 pack-year 
history are concerning for possible pulmonary malignancy. Also, 
per patient report, she has never had a colonoscopy or EGD. 

#CAD, Troponinemia and persistent Q-waves on EKG: Patient was 
ruled out for ACS between her time at ___ and this 
admission to ___. Troponin I was elevated at OSH to 0.13, Trop 
T's at ___ 0.03-0.04. Lipid studies were within normal limits. 
EKG demonstrated q waves in the inferior leads, but was stable 
from prior EKG on ___. She was continued on her home cardiac 
medications, including Lisinopril, Furosemide, Aspirin, 
Metoprolol XL. She remained chest pain free throughout 
admission.

#HTN: Blood pressures during this admission were within normal 
limits. Her home medications, including Clonidine, Lisinopril, 
Metoprolol XL, and Isosorbide Mononitrate, were continued this 
admission.

#Compensated systolic heart failure: In the setting of report of 
recent LVEF of 25% under unclear circumstances, she remained 
without evidence of decompensated heart failure. Her cardiac 
medications were continued as above. 

#Shortness of breath: Patient did not report any shortness of 
breath this admission, and also does not carry a formal 
diagnosis of COPD. Per patient request, she was sent home with a 
nebulizer machine and nebulizers, which provide symptomatic 
relief. She is still currently smoking 1 pack per day.

#Depression: Patient was discharged from ___ on 
Citalopram in late ___. She has an unclear history of previous 
Olanzapine use. Although the patient did not endorse any current 
symptoms of depression, SI/HI, her Citalopram was continued in 
the setting of her recent suicide attempt with Percocet. 

TRANSITIONAL ISSUES:
- In the setting of smoking history, unexplained 30-lb 
unintentional weight loss over the past year, incompletely 
characterized nausea and epigastric pain, and probable right 
base pleural thicking and possible right lower lobe 1.4-cm 
pulmonary nodule on outside hospital KUB/CXR, further work-up 
for systemic illness may be considered in the outpatient 
setting. 
- She may benefit from further medication reconciliation in the 
outpatient setting, given discrepancies among lists provided by 
the patient, her caretaker, and ___ 
facility; the preadmission medication list is up-to-date 
according to discussion with her caretaker. 
- Citalopram was continued, given recent addition at ___ 
___ in the context of suicidality.
- Naproxen was held, given concern for possible peptic ulcer 
disease causing nausea and epigastric discomfort.
- Opioids were held, given reports of implication in recent 
suicidality.
- Pantoprazole was added to home ranitidine, with improvement in 
epigastric pain.
- Patient was discharged on increased bowel regimen. Narcotics 
can worsen her constipation and abdominal pain, so they were 
avoided during this admission.
- A nebulizer machine was obtained and nebulizers prescribed at 
her request in the setting of presumed COPD, given extensive 
smoking history.
- It was not clear if she had been taking a potassium supplement 
while on furosemide at home and was discharged off potassium 
supplementation, given normokalemia throughout admission; she 
may benefit from reevaluation of electrolytes on follow-up with 
her primary care provider.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Ranitidine 150 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. cloNIDine HCl 0.1 mg oral daily 
6. Furosemide 40 mg PO DAILY 
7. Naproxen 500 mg PO Q12H 
8. Citalopram 20 mg PO DAILY 
9. DiCYCLOmine 10 mg PO Frequency is Unknown 
10. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN pain 
11. Diazepam 5 mg PO Frequency is Unknown 
12. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
daily 
13. Metoprolol Succinate XL 12.5 mg PO DAILY 
14. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. DiCYCLOmine 10 mg PO Frequency is Unknown 
4. Furosemide 40 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Ranitidine 150 mg PO DAILY 
9. Acetaminophen 650 mg PO Q4H:PRN pain 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inh/neb four 
times a day Disp #*120 Nebule Refills:*0
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
12. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
13. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth once a day Disp #*30 Packet Refills:*0
15. Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*120 Tablet Refills:*0
16. cloNIDine HCl 0.1 mg ORAL DAILY 
17. Lisinopril 10 mg PO DAILY 
18. Diazepam 5 mg PO Frequency is Unknown 
Please discuss with your primary care provider whether this 
medication is needed. 
19. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN shortness of breath 

RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 neb inh/neb four 
times a day Disp #*120 Nebule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Constipation
Nausea and abdominal pain of unclear etiology

Secondary:
Hypertension
Coronary artery disease
Compensated systolic heart failure
Weight loss of unknown etiology
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking part in your care during your admission 
to ___. You were transferred 
here from another hospital, where you underwent a series of 
tests for evaluation of nausea, abdominal pain, and 
constipation, including an X-ray that did not show a blockage in 
your bowels. Blood tests in the context of your evaluation were 
originally concerning for some 
strain on your heart, and you were transferred here for further 
care. Subsequent blood testing and a test of your heart's 
electrical activity (EKG) were reassuring against damage to the 
heart muscle. The cause of your nausea and belly pain remained 
unclear, but improved with antinausea medications. You may 
discuss further evaluation with your primary care doctor in the 
outpatien setting. You were constipated, so we increased your 
bowel regimen so that you were able to have a bowel movement. 
 
Followup Instructions:
___